US07932270B2
To a mixture of (R)-tert-butyl 2-((5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamido)methyl)azetidine-1-carboxylate (16.5 g, 31.4 mmol) in 100 mL DCM at 0° C. was added trifluoroacetic acid (24 mL, 314 mmol) slowly. The mixture was stirred at r.t for 2 hours until the Boc protection group was completely removed. The mixture was then concentrated. The residue was dissolved in 100 mL DMF and cooled down to 0° C. To the mixture was added a mixture of glycolic acid (2.86 g, 38 mmol), HBTU (14.3 g, 38 mmol), HOBT (5.1 g, 38 mmol) and DIEA (16.4 ml, 94 mmol). The mixture was warmed up to r.t and stirred at r.t. for 2 hours. The mixture was extracted with EtOAc. The organic layer was further washed with 1N NaOH (300 ml) and brine, dried and concentrated. The residue was subjected to a Biotage silica gel chromatography using gradient 0-40% B as eluant (A=dichloromethane, B=10% MeOH in dichloromethane) to give the crude product. The yellow solid was further tritirated with 100 mL EtOAc. (R)-5-fluoro-2-(3-fluorophenethylamino)-N-((1-(2-hydroxyacetyl)azetidin-2-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamide was obtained as a pale yellow solid (12.7 g, 83% yield). LRMS (M+H+) m/z 485.1.

reactant | (R)-tert-butyl 2-((5-fluoro-2-(3-fluorophenethylamino)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamido)methyl)azetidine-1-carboxylate | 31.4 mmol, 16.5 g | FC=1C(=NC(=C(C(=O)NC[C@@H]2N(CC2)C(=O)OC(C)(C)C)C1)NCCC1=CC(=CC=C1)F)C=1C=NN(C1)C | C27H32F2N6O3
reactant | trifluoroacetic acid | 314 mmol, 24 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | glycolic acid | 38 mmol, 2.86 g | C(CO)(=O)O | C2H4O3
reactant | HBTU | 38 mmol, 14.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 38 mmol, 5.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 94 mmol, 16.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-5-fluoro-2-(3-fluorophenethylamino)-N-((1-(2-hydroxyacetyl)azetidin-2-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)nicotinamide | FC=1C(=NC(=C(C(=O)NC[C@@H]2N(CC2)C(CO)=O)C1)NCCC1=CC(=CC=C1)F)C=1C=NN(C1)C | C24H26F2N6O3
